US05599587
Ethanolamine p-toluenesulphonate (10.0 g, 39.8 mmol was dissolved in dry acetonitrile (500 ml) at 60° C. The solution was cooled to 30° C. when pyridine (3.15 g, 39.8 mmol) was added. A solution of 2-chloro-2-oxo-1,3,2-dioxaphospholane (5.68 g, 39.8 mmol) in dry acetonitrile (5 ml) was then added over 10 minutes. The mixture was stirred at ambient temperature for 4 hours and then the acetonitrile evaporated in vacuo to give 2-(2-aminoethoxy)-2-oxo-1,3,2-dioxaphospholane as a viscous oil.

reactant | Ethanolamine p-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)OCCN)C | C9H13NO3S
reactant | pyridine | 39.8 mmol, 3.15 g | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-2-oxo-1,3,2-dioxaphospholane | 39.8 mmol, 5.68 g | ClP1(OCCO1)=O | C2H4ClO3P
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(2-aminoethoxy)-2-oxo-1,3,2-dioxaphospholane | NCCOP1(OCCO1)=O | C4H10NO4P
